US07875647B2
The experimental procedure was followed by the method of Bruno P. Imbimbo et al [J. Med. Chem. 2005, 48, 5707-7520]. A solution of 3-chlorobenzylbromide (5 g, 24.3 mmol) and sodium cyanide (1.3 g, 26.8 mmol) in ethanol (50 ml) was heated to 80° C. for 2 hours. After resulting solution was cooled to room temperature and concentrated under reduced pressure. The residue was suspended in water and organic layer was extracted with ethyl acetate. The solution was evaporated and crude compound was purified by silica gel column chromatography (hexane/ethyl acetate=5/1) to yield 2-(3-chlorophenyl)acetonitrile (3.2 g, 87% yield) as colorless oil.

reactant | 3-chlorobenzylbromide | 24.3 mmol, 5 g | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | sodium cyanide | 26.8 mmol, 1.3 g | [C-]#N.[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(3-chlorophenyl)acetonitrile | 3.2 g, 87% yield | ClC=1C=C(C=CC1)CC#N | C8H6ClN
